US07582644B2
i) 2-[(2-Fluoro-3-methylbenzyl)thio]pyrimidine-4,6-diol
The subtitle compound was prepared as a yellow solid by the method of Example 39 step i) using 2-fluoro-3-methylbenzyl bromide (7.0 g), 2-mercaptopyrimidine-4,6-diol (5.0 g) and potassium hydroxide (1.93 g). Yield: 8.36 g.

reactant | 2-fluoro-3-methylbenzyl bromide | 7.0 g | FC1=C(CBr)C=CC=C1C | C8H8BrF
reactant | 2-mercaptopyrimidine-4,6-diol | 5.0 g | SC1=NC(=CC(=N1)O)O | C4H4N2O2S
reactant | potassium hydroxide | 1.93 g | [OH-].[K+]
product | 2-[(2-Fluoro-3-methylbenzyl)thio]pyrimidine-4,6-diol | FC1=C(CSC2=NC(=CC(=N2)O)O)C=CC=C1C | C12H11FN2O2S
